US06797718B2
Triethylamine (18.9 g, 136 mmol) was added to a solution of 2,4-dichloro-5,6-dimethyl-3-nitropyridine (25 g, 113 mmol) in N,N-dimethylformamide (100 mL). 4-Aminobutan-1-ol (11.1 g, 124. mmol) was added with a syringe and the reaction mixture was allowed to stir under a nitrogen atmosphere at ambient temperature for 17 hours. A portion (85 mL) of the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate (200 mL), washed with water (2×50 mL) then with brine (75 mL), dried over magnesium sulfate, filtered and then concentrated under reduced pressure to provide a solid. This material was recrystallized from ethyl acetate/hexanes to provide 15.07 g of 4-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]butan-1-ol as yellow powder. An additional 5.70 g was isolated from the mother liquor.

reactant | Triethylamine | 136 mmol, 18.9 g | C(C)N(CC)CC | C6H15N
reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 113 mmol, 25 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | 4-Aminobutan-1-ol | 11.1 g | NCCCCO | C4H11NO
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | 4-[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]butan-1-ol | 15.07 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCCCCO)C)C | C11H16ClN3O3
